US09382254B2
Step (iv): 1H-Pyrazole-3-carboxylic acid (5-benzylsulfanyl-3-carbamoyl-thiophen-2-yl)-amide
A mixture of Pd2(dba)3 (20 mg, 0.022 mmol) and Xantphos (51 mg, 0.087 mmol) in 1,4-dioxane (5 mL) is degassed, put under N2 and sonicated. This mixture is then added to a degassed mixture of 1H-Pyrazole-3-carboxylic acid (5-bromo-3-carbamoyl-thiophen-2-yl)-amide (345 mg, 1.09 mmol), phenyl-methanethiol (135 μL, 1.15 mmol) and DIEA (380 μL, 2.18 mmol) in 1,4-dioxane (5 mL). Resulting mixture is stirred at 100° C. under N2. After 75 min, the reaction is diluted with DCM and washed with aqueous NaHCO3. The organic is then dried over MgSO4, filtered and evaporated to an oily residue. This residue is triturated in di-isopropylether, separated by filtration, the cake is dried, and the resulting the solid is used as such.

reactant | Xantphos | 0.087 mmol, 51 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 1H-Pyrazole-3-carboxylic acid (5-bromo-3-carbamoyl-thiophen-2-yl)-amide | 1.09 mmol, 345 mg | BrC1=CC(=C(S1)NC(=O)C1=NNC=C1)C(N)=O | C9H7BrN4O2S
reactant | phenyl-methanethiol | 1.15 mmol, 135 μL | C1(=CC=CC=C1)CS | C7H8S
reactant | DIEA | 2.18 mmol, 380 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.022 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1H-Pyrazole-3-carboxylic acid (5-benzylsulfanyl-3-carbamoyl-thiophen-2-yl)-amide | C(C1=CC=CC=C1)SC1=CC(=C(S1)NC(=O)C1=NNC=C1)C(N)=O | C16H14N4O2S2
